US04874775
N-(4-phenoxyphenyl)-N-(pyridin-3-ylmethyl)ethanesulfonamide
A 2.8 g. portion of 3-(4-phenoxyphenylaminomethyl)pyridine was dissolved in 100 ml. of acetonitrile, and to it were added 2 g. of potassium carbonate and 1.3 g. of ethanesulfonyl chloride. The mixture was stirred at ambient temperature for 2 days, and it was then filtered and concentrated under vacuum. The oily residue was chromatographed on silica gel, eluting with 4.1 toluene:acetone. The product-containing fractions were evaporated under vacuum, and the residue was taken up in diethyl ether. Upon standing, a precipitate formed, which was shown to be 2.0 g. of the desired product, m.p. 79°-80°.

reactant | 3-(4-phenoxyphenylaminomethyl)pyridine | O(C1=CC=CC=C1)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C18H16N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(4-phenoxyphenyl)-N-(pyridin-3-ylmethyl)ethanesulfonamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C20H20N2O3S
